US09102703B2
Synthesis of 1-chloro-3-(hept-1-en-6-yn-1-yl)benzene (EB-024)
An oven-dried 250 mL three-necked round-bottomed flask under a nitrogen atmosphere was charged with 3-chlorobenzylphosphonate (4.74 g, 18 mmol) and dry THF (60 mL). The solution was cooled to 0° C. in an ice bath for 15 min, then n-BuLi (12 mL of a 1.6 M n-hexane solution, 19 mmol) was added dropwise over 10 min, via syringe. The mixture was stirred at 0° C. for 30 min, then 5-hexynal (1.0 g, 10 mmol) in dry THF (40 mL) was added. The solution was warmed to room temperature and was stirred for 3 h. The consumption of the starting material was monitored by TLC (AcOEt/n-hexane 1:9). The reaction was quenched by adding saturated aqueous ammonium chloride solution (70 mL). The layers were separated and the aqueous phase was extracted with ether (3×50 mL). The combined organic layers were washed with brine (2×50 mL), dried over Na2SO4, gravity filtered and concentrated under reduced pressure. The reaction residue was purified by silica gel flash chromatography, eluting with AcOEt/n-hexane 0.5:9.5, to provide 1.9 g of the title compound as a colorless oil in a 93% yield.

reactant | 3-chlorobenzylphosphonate | 18 mmol, 4.74 g | ClC=1C=C(CP([O-])([O-])=O)C=CC1
reactant | n-BuLi | [Li]CCCC
reactant | n-hexane | 1.6 M | CCCCCC | C6H14
reactant | 5-hexynal | 10 mmol, 1.0 g | C(CCCC#C)=O | C6H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-chloro-3-(hept-1-en-6-yn-1-yl)benzene | 1.9 g, 93% yield | ClC1=CC(=CC=C1)C=CCCCC#C | C13H13Cl
